US07893055B2
1-(3-Chloropropyl)cyclopentanecarbonitrile.
To a stirred solution of cyclopentanecarbonitrile (1.04 mL, 10 mmol) in THF (20 mL) at −78° C. was added LiHMDS (1M in THF, 11 mL) via syringe. After 30 min, 1-chloro-3-iodopropane (1.6 mL, 15 mmol) was added at once and slowly warmed to room temperature. After 20 h, the reaction mixture was quenched with saturated ammonium chloride (1 mL), diluted with EtOAc (100 mL), dried (MgSO4), filtered and concentrated to give the title compound as a yellow oil which was used in the next step without further purification.

reactant | cyclopentanecarbonitrile | 10 mmol, 1.04 mL | C1(CCCC1)C#N | C6H9N
reactant | LiHMDS | 1M, 11 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-chloro-3-iodopropane | 15 mmol, 1.6 mL | ClCCCI | C3H6ClI
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(3-Chloropropyl)cyclopentanecarbonitrile | ClCCCC1(CCCC1)C#N | C9H14ClN
